US08133907B2
2-[(2S,3R)-3-Amino-4-(2-fluoro-phenyl)-2-hydroxy-butyl]-N-isopropyl-nicotinamide
Using general deprotection procedure 5 with [(1R,2S)-1-(2-Fluoro-benzyl)-2-hydroxy-3-(3-isopropylcarbamoyl-pyridin-2-yl)-propyl]-carbamic acid tert-butyl ester (0.16 g, 0.34 mmol) followed by trituration with pentane gives the title compound.

reactant | [(1R,2S)-1-(2-Fluoro-benzyl)-2-hydroxy-3-(3-isopropylcarbamoyl-pyridin-2-yl)-propyl]-carbamic acid tert-butyl ester | 0.34 mmol, 0.16 g | C(C)(C)(C)OC(N[C@@H]([C@H](CC1=NC=CC=C1C(NC(C)C)=O)O)CC1=C(C=CC=C1)F)=O | C24H32FN3O4
solvent | pentane | CCCCC | C5H12
product | 2-[(2S,3R)-3-Amino-4-(2-fluoro-phenyl)-2-hydroxy-butyl]-N-isopropyl-nicotinamide | N[C@@H]([C@H](CC1=C(C(=O)NC(C)C)C=CC=N1)O)CC1=C(C=CC=C1)F | C19H24FN3O2
